US06759557B2
In a 50 ml four neck reactor equipped with a thermometer, a dripping funnel and a refrigerant, zinc powder (2.3 g), 2-hydroxy-11-cycloeicosenone (1.4 g) and toluene (10 ml) were mixed, stirred and heated at 90° C. under nitrogen flow. A 20N sulphuric acid aqueous-solution (2.8 ml) was added thereto dropwise over 2.5 hours and the resulting mixture was stirred under heating for 30 minutes. Toluene and water were added after the reaction and the resulting solution was allowed to stand to separate into two phases. The organic phase was washed twice with water and then washed with a saturated sodium chloride aqueous solution. The solvent was removed under reduced pressure to give 1.4 g of crude product. The crude product was purified on a silica gel column chromatograph (hexane/ethyl acetate=10/1, v/v) to give 1.2 g of 10-cycloeicosenone (yield 92%).

reactant | 2-hydroxy-11-cycloeicosenone | 1.4 g | OC1C(CCCCCCCCC=CCCCCCCCC1)=O | C20H36O2
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | sulphuric acid | 20N, 2.8 ml | S(O)(O)(=O)=O | H2O4S
catalyst | zinc | 2.3 g | [Zn] | Zn
solvent | water | O | H2O
product | 10-cycloeicosenone | 1.2 g, yield 92% | C1(CCCCCCCCC=CCCCCCCCCC1)=O | C20H36O
